US07217740B2
2-Bromobenzaldehyde (1.55 g, 8.4 mmol), sodium 4-bromophenylsulfinate (2.79 g, 10 mmol) and copper(I) trifluoromethanesulfonate benzene complex (500 mg, 1 mmol) were combined in dimethylsulfoxide (10 mL) under nitrogen and degassed. The suspension was heated to 110° C. and N,N-dimethylethylenediamine (176 mg, 2 mmol) was added. The reaction was heated until the colour became clear and pale yellow, then cooled and poured into water. The products were extracted into ethyl acetate. The organic layer was washed with water: brine (1:1, ×5), dried over MgSO4 and evaporated in vacuo. The residue was triturated with isohexane to give 2-[(4-bromophenyl)sulfonyl]benzaldehyde (1.5 g, 55%). δH (400 z, CDCl3): 10.76 (1H, s), 8.14–8.12 (1H; m), 7.98–7.96 (1H, m), 7.76–7.68 (4H, m), 7.64–7.62 (2H, m).

reactant | 2-Bromobenzaldehyde | 8.4 mmol, 1.55 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | sodium 4-bromophenylsulfinate | 10 mmol, 2.79 g | BrC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | N,N-dimethylethylenediamine | 2 mmol, 176 mg | CN(CCN)C | C4H12N2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-[(4-bromophenyl)sulfonyl]benzaldehyde | 1.5 g, 55% | BrC1=CC=C(C=C1)S(=O)(=O)C1=C(C=O)C=CC=C1 | C13H9BrO3S
